2156-04-27 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -started PO metoprolol with much improvement in rate control
   -supratherapeutic INR >assay confirmed on repeat; given PO vitamin K
   -10 mg IV lasix-->400 cc UOP
   -continued to require 100% FiO2 by facemask overnight
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-4-26**] 07:54 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-4-26**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-4-27**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.9
C (96.7
   HR: 88 (79 - 105) bpm
   BP: 139/75(87) {125/56(73) - 151/78(90)} mmHg
   RR: 31 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 59 Inch
             Total In:
                                                                     71 mL
                                                                     67 mL
   PO:
             TF:
   IVF:
                                                                     71 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    205 mL
   Urine:
                                                                    550 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -479 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   GENERAL - well-appearing female in NAD, comfortable, appropriate
   HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear
   NECK - supple, no thyromegaly, JVP to jaw
   LUNGS - velcro like crackles at bases and rul, no wheezing
   HEART - irreg irreg, no murmurs, tacchy
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding
   EXTREMITIES - WWP, no c/c, trace edema to mid calves, 2+ peripheral
   pulses (radials, DPs)
   SKIN - positive ecchymosis on left arm
   LYMPH - no cervical, axillary, or inguinal LAD
   NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 5/5
   throughout, sensation grossly intact throughout
   Labs / Radiology
   227 K/uL
   8.9 g/dL
   144 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.6 mEq/L
   34 mg/dL
   103 mEq/L
   145 mEq/L
   26.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2156-4-26**]  08:28 PM
                             [**2156-4-27**]  03:55 AM
   WBC
   6.5
   5.0
   Hct
   28.1
   26.2
   Plt
   232
   227
   Cr
   1.0
   Glucose
   144
   Other labs: PT / PTT / INR:150.0/38.7/21.8, ALT / AST:155/115, Alk Phos
   / T Bili:136/0.7, Albumin:4.4 g/dL, LDH:392 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ANXIETY
   .
   Pt is a 74 year-old woman with a history of IPF, pulmonary
   hypertension, COPD, recent diagnosis of atrial fibrillation, who
   presents with an increasing O2 requirement.
   #. Hypoxia:  She has multiple reasons to be hypoxic, including
   underlying IPF, COPD, pulmonary  HTN.  Most likely acute precipitant
   of change is her new atrial fibrillation with RVR leading to pulmonary
   edema secondary to poor forward flow.  Elevated BNP consistent with
   this  No evidence of an infectious process, and her picture is not
   consistent with a COPD exacerbation.  PE very unlikely given INR 21.8.
   She seems to have improved slightly with diuresis (10 mg IV lasix x 2)
   overnight.
   - lasix 20 mg IV x 1 and repeat PRN
   - rate control of a-fib as below
   - wean supplemental O2 as tolerated
   - will continue levofloxacin for now to cover for possibility of PNA as
   well as positive UA, although PNA unlikely; will plan to stop if UCx
   doesn
t grow as below
   .
   #. Elevated INR: Still elevated > assay on repeat s/p 5 mg PO vitamin
   K.  Received a second 5 mg dose this morning.  No evidence of bleeding
   currently.
   - recheck INR
   - monitor for signs of bleeding
   - would consider FFP and/or IV vitamin K if signs of bleeding or if can
   not get INR back down with current strategy.
   ..
   #. Afib:  Rate better controlled with metoprolol but still not
   optimal.  Supra-therapeutically anticoagulated.
   - obtain OSH echo
   - uptitrate metoprolol for better control
   - discuss further anticoagulation after INR falls to normal
   - may need to discuss cardioversion with cardiology if her oxygenation
   can not be improved with diuresis
   .
   # Elevated LFTs:  increased from a normal baseline.  Likely secondary
   to congestion from poor forward cardiac flow
   - continue to trend
   .
   #. Anemia: currently at baseline
   - f/u iron studies, b12, folate
   .
   #. Hypothyroidism:  TSH normal
   - cont levothyroxine
   .
   #. HTN:
   - will hold lisinopril for now to allow for adequate BP for increased
   metoprolol dosing
   .
   #. Depression:
   - continue sertraline
   ..
   #. Positive UA: No dysuria.  Culture pending
   - f/u urine cx
   - continue levofloxacin for now
   .
   #. FEN
 cardiac diet, replete lytes PRN
   .
   #. Access - PIV
   .
   #. PPx -
   -DVT ppx : on hold with INR of 21
   -Bowel regimen
   -no need for ppi
   .
   #. Code - full code, confirmed with pt and family
   .
   #. Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-4-26**] 05:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-04-27 11:44:00 Physician Attending Progress Note
Chief Complaint: dyspnea/resp distress/hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo F with IPF, pulm htn by echo, significant emphysema with 50 py
   tob, on chronic home O2, with loculated pleural process at L CP angle
   (1 yr stability and neg PET) and newly dx a-fib recently started on
   coumadin and diltiazem presents with progressive dyspnea and increasing
   O2 requirements over past 2 wks.
   24 Hour Events:
   metoprolol started for rate control,. dilt stopped
   INR rechecked --> > assay, received vit K
   10 iv lasix with good u/o response
                                               History obtained from Patient, ho
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-4-26**] 07:54 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-4-26**] 07:30 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-4-27**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 89 (79 - 105) bpm
   BP: 140/61(80) {125/56(72) - 151/78(90)} mmHg
   RR: 32 (20 - 35) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 59 Inch
             Total In:
                                                                     71 mL
                                                                    203 mL
   PO:
             TF:
   IVF:
                                                                     71 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    460 mL
   Urine:
                                                                    550 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -479 mL
                                                                   -257 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin, frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: elevated jvp
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.9 g/dL
   227 K/uL
   144 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.6 mEq/L
   34 mg/dL
   103 mEq/L
   145 mEq/L
   26.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2156-4-26**]  08:28 PM
                             [**2156-4-27**]  03:55 AM
   WBC
   6.5
   5.0
   Hct
   28.1
   26.2
   Plt
   232
   227
   Cr
   1.0
   Glucose
   144
   Other labs: PT / PTT / INR:150.0/38.7/21.8, ALT / AST:155/115, Alk Phos
   / T Bili:136/0.7, Albumin:4.4 g/dL, LDH:392 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Fluid analysis / Other labs: bnp--12,000
   tsh nl
   Imaging: no new film
   Microbiology: bl, urine pending
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ANXIETY
   74 yo F with IPF, pulm htn by echo, significant emphysema with 50 py
   tob, on chronic home O2, with loculated pleural process at L CP angle
   (1 yr stability and neg PET) and newly dx a-fib recently started on
   coumadin and diltiazem presents with progressive dyspnea and increasing
   O2 requirements over past 2 wks.
   BNP very elevated and in setting of new a-fib congestive heart failure
   seems most likely etiology of worsening hypoxia in pt with little lung
   reserve.
   PE is on ddx given new onset fib and sig hypoxia
but has been treated
   with coumadin and is supratherapeutic
   Lower suspicion for copd exac given no wheeze on exam
   Possibly infectious--cap--with difficult to interpret imaging given her
   underlying lung ds, --she remains  without fever or leukocytosis
   Acute worsening of IPF--AIP--remains on ddx though dx of exclusion
   # hypoxia/dyspnea
   chf most likely etiology in pt with minimal lung reserve, likely
   explains lft abnl with r-sided failure
   -continue diuresis
   -repeat BNP
   -obtain echo OSH report
   -continue metoprolol and dig for rate control, titrate
   -infectious etiology unlikely
   -wean o2 as able
   # afib--rate control with metoprolol, d/c dilt
   titrate metop for improved rate control
   #Elevated INR-not spurious on recheck, no evidence of bleed though at
   risk for bleeding, continue vit k and hold coumadin
   #arf--mild cr elevation on admit resolved to abseline after diuresis
   #pos u/a--f/u cx, levo as above pending cx
   #anemia--follow h/h
   Remainder as per housestaff admission note
   ICU Care
   Nutrition:
   Comments: po
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-4-26**] 05:08 PM
   Prophylaxis:
   DVT: (supratherapeutic inr)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2156-04-28 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -OSH Echo: EF 60%, thickened mitral valve leaflets with mild annular
   calcification.  Moderate MR.  Moderate AR, no stenssis.  Mod TR with
   enlarged right atrium. Pulmonary Artery systolic Pressure 68mmHg, Mod
   PR.  No effusion
   - diuresing with 20 mg IV lasix x 1 followed by 40 mg IV lasix x 1
   -weaning FiO2 but still requiring FM
   -INR fell to 5 after 2 doses vitamin k
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-4-27**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-4-28**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-4-28**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 83 (75 - 95) bpm
   BP: 138/65(81) {99/47(65) - 146/85(90)} mmHg
   RR: 24 (21 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 59 Inch
             Total In:
                                                                    262 mL
                                                                     72 mL
   PO:
             TF:
   IVF:
                                                                    172 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    700 mL
   Urine:
                                                                  1,595 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,333 mL
                                                                   -628 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///36/
   Physical Examination
   GENERAL - well-appearing female in NAD, comfortable, appropriate
   HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear
   NECK - supple, no thyromegaly, JVP to jaw
   LUNGS - velcro like crackles at bases and rul, no wheezing
   HEART - irreg irreg, no murmurs, tacchy
   ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no rebound/guarding
   EXTREMITIES - WWP, no c/c, trace edema to mid calves, 2+ peripheral
   pulses (radials, DPs)
   SKIN - positive ecchymosis on left arm
   LYMPH - no cervical, axillary, or inguinal LAD
   NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 5/5
   throughout, sensation grossly intact throughout
   Labs / Radiology
   220 K/uL
   9.4 g/dL
   159 mg/dL
   1.3 mg/dL
   36 mEq/L
   3.3 mEq/L
   47 mg/dL
   99 mEq/L
   148 mEq/L
   29.2 %
   9.9 K/uL
        [image002.jpg]
                             [**2156-4-26**]  08:28 PM
                             [**2156-4-27**]  03:55 AM
                             [**2156-4-27**]  06:00 PM
                             [**2156-4-28**]  04:46 AM
   WBC
   6.5
   5.0
   9.9
   Hct
   28.1
   26.2
   29.2
   Plt
   232
   227
   220
   Cr
   1.0
   1.2
   1.3
   Glucose
   144
   121
   159
   Other labs: PT / PTT / INR:47.1/34.5/5.3, ALT / AST:147/115, Alk Phos /
   T Bili:134/0.7, Albumin:4.4 g/dL, LDH:394 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.8 mg/dL
   Urine culture:  E Coli >100 000
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ANXIETY
   Pt is a 74 year-old woman with a history of IPF, pulmonary
   hypertension, COPD, recent diagnosis of atrial fibrillation, who
   presents with an increasing O2 requirement.
   .
   #. Hypoxia:   [**Month (only) 51**] need to re-consider how much of this can be improved
   by diuresis given that she has been ~2.5L LOS net negative, with rising
   bicarb and creatinine,  without substantial improvement in respiratory
   status. Likely MR in the setting of a fib is contributing as well as
   her underlying lung disease (COPD, pulmonary HTN, and IPF).
   - continue
   She has multiple reasons to be hypoxic, including underlying IPF, COPD,
   pulmonary  HTN.  Most likely acute precipitant  of change is her new
   atrial fibrillation with RVR leading to pulmonary edema secondary to
   poor forward flow.  Elevated BNP consistent with this  No evidence of
   an infectious process, and her picture is not consistent with a COPD
   exacerbation.  PE very unlikely given INR 21.8.  She seems to have
   improved slightly with diuresis (10 mg IV lasix x 2) overnight.
   - lasix 20 mg IV x 1 and repeat PRN
   - rate control of a-fib as below
   - wean supplemental O2 as tolerated
   - will continue levofloxacin for now to cover for possibility of PNA as
   well as positive UA, although PNA unlikely; will plan to stop if UCx
   doesn
t grow as below
   .
   #. Elevated INR: Still elevated > assay on repeat s/p 5 mg PO vitamin
   K.  Received a second 5 mg dose this morning.  No evidence of bleeding
   currently.
   - recheck INR
   - monitor for signs of bleeding
   - would consider FFP and/or IV vitamin K if signs of bleeding or if can
   not get INR back down with current strategy.
   ..
   # Renal failure:  likely from over-diuresis given rising bicarbonate
   and elevated BUN/creatinine
   .
   #. Afib:  Rate better controlled with metoprolol but still not
   optimal.  Supra-therapeutically anticoagulated.
   - obtain OSH echo
   - uptitrate metoprolol for better control
   - discuss further anticoagulation after INR falls to normal
   - may need to discuss cardioversion with cardiology if her oxygenation
   can not be improved with diuresis
   .
   # Elevated LFTs:  increased from a normal baseline.  Likely secondary
   to congestion from poor forward cardiac flow
   - continue to trend
   .
   #. Anemia: currently at baseline
   - f/u iron studies, b12, folate
   .
   #. Hypothyroidism:  TSH normal
   - cont levothyroxine
   .
   #. HTN:
   - will hold lisinopril for now to allow for adequate BP for increased
   metoprolol dosing
   .
   #. Depression:
   - continue sertraline
   ..
   #. Positive UA: No dysuria.  Culture pending
   - f/u urine cx
   - continue levofloxacin for now
   .
   #. FEN
 cardiac diet, replete lytes PRN
   .
   #. Access - PIV
   .
   #. PPx -
   -DVT ppx : on hold with INR of 21
   -Bowel regimen
   -no need for ppi
   .
   #. Code - full code, confirmed with pt and family
   .
   #. Dispo - Pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-4-27**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-04-28 11:19:00 Physician Attending Progress Note
Chief Complaint: hypoxia/resp distress/chf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   osh echo report reviewed
   diuresed with good urine output
   decreased fio2 requirement from 70% to 50% FM
   History obtained from [**Hospital 15**] Medical records, ho
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2156-4-27**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-4-28**] 05:00 AM
   Other medications:
   Reviewed
per [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-4-28**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.3
C (95.6
   HR: 82 (75 - 95) bpm
   BP: 120/48(65) {99/47(65) - 139/85(90)} mmHg
   RR: 25 (21 - 31) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 59 Inch
             Total In:
                                                                    262 mL
                                                                    110 mL
   PO:
             TF:
   IVF:
                                                                    172 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                  1,380 mL
   Urine:
                                                                  1,595 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,333 mL
                                                                 -1,270 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///36/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic),
   irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l 2/3rds up, No(t)
   Wheezes : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Movement: Purposeful,
   Labs / Radiology
   9.4 g/dL
   220 K/uL
   159 mg/dL
   1.3 mg/dL
   36 mEq/L
   3.3 mEq/L
   47 mg/dL
   99 mEq/L
   148 mEq/L
   29.2 %
   9.9 K/uL
        [image002.jpg]
                             [**2156-4-26**]  08:28 PM
                             [**2156-4-27**]  03:55 AM
                             [**2156-4-27**]  06:00 PM
                             [**2156-4-28**]  04:46 AM
   WBC
   6.5
   5.0
   9.9
   Hct
   28.1
   26.2
   29.2
   Plt
   232
   227
   220
   Cr
   1.0
   1.2
   1.3
   Glucose
   144
   121
   159
   Other labs: PT / PTT / INR:47.1/34.5/5.3, ALT / AST:133/83, Alk Phos /
   T Bili:140/0.8, Albumin:4.4 g/dL, LDH:373 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.8 mg/dL
   Imaging: cxr--unchanged--emphysematous changes, retic nodular pattern,
   l pleural process
   Microbiology: urine cx--e coli
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ANXIETY
   74 yo F with IPF, pulm htn by echo, significant emphysema with 50 py
   tob, on chronic home O2, with loculated pleural process at L CP angle
   (1 yr stability and neg PET) and newly dx a-fib recently started on
   coumadin and diltiazem presents with progressive dyspnea and increasing
   O2 requirements over past 2 wks.  BNP very elevated and in setting of
   new a-fib congestive heart failure is most likely etiology of worsening
   hypoxia in pt with little lung reserve.
   Issues include:
          Pulm edema/congestive heart failure
          Atrial fib
          Supratherapeutic INR
          Met alkalosis/acute renal insuf--contraction alkalosis with
   diuresis
          UTI
e coli
   With aggressive diuresis and improved heart rate control pt is both
   clinically and subjectively improving though she remains on higher supp
   O2 than at prior baseline.  Her cxr demonstrate little change but her
   baseline is very abnl with severe fibrosis and emphysema. We have been
   able to decrease FIO2 to 50% from initial 100% NRB.
   Will continue to wean O2 as tolerated.  Had held on abg in setting of
   INR 21
s but would obtain abg now that INR has decreased. If unable to
   make additional progress in terms of decreasing her o2 needs,
   consideration to possible cardioversion might be addressed.  However,
   given her pulm htn and dil ra on echo, she likely would not maintain a
   NSR.  She has developed a met alkalosis and mild bump in cr in setting
   of diuresis
will hold on additional lasix and allow to reequilibriate
   monitoring closely.  Her INR is trending down after vit k--will
   continue to monitor and hold coumadin until therapeutic. Improved rate
   control achieved with metoprolol. Will complete 5 day course of levo
   for e coli uti--remains af without lekocytosis.
   Remainder as per housestaff note.
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-4-27**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin held for supratherapeutic inr
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable for transfer to floor
   Total time spent: 40 minutes